US07700625B2
A mixture of 4-methoxyphthalic anhydride (27.8 g, 0.16 mol) and formamide (175 ml) was stirred and held at 210° C. for 5 hours and was then allowed to cool to room temperature overnight. The solid material was filtered off, washed sequentially with water (100 ml), 50% aqueous acetone (50 ml) and diethyl ether (200 ml) and sucked dry under reduced pressure to afford 4-methoxyphthalimide (21.3 g, 77%) as a pale yellow solid. 1H NMR (DMSO-d6) 11.15 (1H, br s), 7.74 (1H, d), 7.33-7.28 (2H, m), 3.92 (3H, s).

reactant | 4-methoxyphthalic anhydride | 0.16 mol, 27.8 g | COC=1C=C2C(C(=O)OC2=O)=CC1 | C9H6O4
reactant | formamide | 175 ml | C(=O)N | CH3NO
product | 4-methoxyphthalimide | 21.3 g, 77% | COC=1C=C2C(C(=O)NC2=O)=CC1 | C9H7NO3
